US07378409B2
To a solution of tert-butyl(1R,3R,4S)-4-amino-3-((S)-1-hydroxy-2-methylpropyl)cyclohexylcarbamate (300 mg, 1.05 mmol) in DMF (10 mL) was charged with 3-(trifluoromethyl)benzoic acid (330 mg, 1.26 mmol), N,N-diethylisopropylamine (0.2 mL, 1.26 mmol), and HATU (480 mg, 1.26 mmol). The reaction was stirred for 16 h at RT and then partitioned between EtOAc and sat. NaHCO3; the aqueous phase was back extracted with EtOAc. The organic phases were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to afford tert-butyl(1R,3R,4S)-3-((S)-1-hydroxy-2-methylpropyl)-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate. MS found: (M+H)+=516.

reactant | tert-butyl(1R,3R,4S)-4-amino-3-((S)-1-hydroxy-2-methylpropyl)cyclohexylcarbamate | 1.05 mmol, 300 mg | N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)[C@H](C(C)C)O | C15H30N2O3
reactant | 3-(trifluoromethyl)benzoic acid | 1.26 mmol, 330 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | N,N-diethylisopropylamine | 1.26 mmol, 0.2 mL | C(C)N(CC)C(C)C | C7H17N
reactant | HATU | 1.26 mmol, 480 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl(1R,3R,4S)-3-((S)-1-hydroxy-2-methylpropyl)-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate | O[C@@H](C(C)C)[C@@H]1C[C@@H](CC[C@@H]1NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)NC(OC(C)(C)C)=O | C25H36F3N3O5
